US04418065
3-(4-Chlorophenyl)-3-(3-pyridyl)-2-propenal
A mixture of 0.30 g 3-(4-chlorophenyl)-3-(3-pyridyl)-2-propen-1-ol and 1.5 g manganese dioxide in 15 ml chloroform was stirred overnight at room temperature under nitrogen. Filtration and evaporation of the solvent gave 0.30 g of a yellow oil, which contained the isomeric aldehydes in a Z/E ratio of circa 60/40 according to NMR. The crude product was used directly in the reductive dimethylamination according to Example 15.

reactant | 3-(4-chlorophenyl)-3-(3-pyridyl)-2-propen-1-ol | 0.30 g | ClC1=CC=C(C=C1)C(=CCO)C=1C=NC=CC1 | C14H12ClNO
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 1.5 g | [O-2].[O-2].[Mn+4]
product | 3-(4-Chlorophenyl)-3-(3-pyridyl)-2-propenal | 0.30 g | ClC1=CC=C(C=C1)C(=CC=O)C=1C=NC=CC1 | C14H10ClNO
